US09126950B2
Into a 25 mL 3-neck RBF equipped with a calcium chloride guard tube, N-(3-((5-fluoro-2-((4-hydroxyphenyl)amino)pyrimidin-4-yl)amino)phenyl)acrylamide (I-3) (0.100 g), in THF (4 mL), NMO (0.032 g) and OsO4(4% in water) solution were charged at room temperature The reaction mixture was stirred at room temperature for approx. 4 h. The reaction was monitored on TLC using ethyl acetate (100%) as mobile phase. After completion, the reaction mixture was poured in water and extracted into ethyl acetate. Organic layer was washed with water, dried over sodium sulfate and concentrated under reduced pressure at 40° C. Crude material was purified by preparative HPLC using 0.1% TFA in ACN and 0.1% TFA in water as mobile phase to give 10 mg of N-(3-((5-fluoro-2-((4-hydroxyphenyl)amino)pyrimidin-4-yl)amino)phenyl)-2,3-dihydroxypropanamide. 1H NMR: DMSO-d6 (400 MHz) 3.58-3.61 (m, 2H), 4.045-4.059 (t, 1H, J=4), 4.836-4.851 (d, 1H, J=6), 5.771-5.785 (d, 1H, J=5.6), 6.605-6.627 (d, 2H, J=8.8), 7.201-7.242 (t, 1H, J=8), 7.377-7.442 (m, 3H), 7.541-7.561 (d, 1H, J=8), 7.953 (s, 1H), 8.020-8.029 (d, 1H, J=3.6), 8.827 (s, 1H), 8.931 (s, 1H), 9.300 (s, 1H), 9.520 (s, 1H).

reactant | N-(3-((5-fluoro-2-((4-hydroxyphenyl)amino)pyrimidin-4-yl)amino)phenyl)acrylamide | 0.100 g | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)O)NC=1C=C(C=CC1)NC(C=C)=O | C19H16FN5O2
reactant | NMO | 0.032 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
catalyst | OsO4 | O=[Os](=O)(=O)=O
product | N-(3-((5-fluoro-2-((4-hydroxyphenyl)amino)pyrimidin-4-yl)amino)phenyl)-2,3-dihydroxypropanamide | 10 mg | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)O)NC=1C=C(C=CC1)NC(C(CO)O)=O | C19H18FN5O4
